US07105544B2
N-(3-{4-[3-(ACETYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-1-(4-CHLOROPHENYL)CYCLOPENTANECARBOXAMIDE
Example 78 was prepared from 1-(4-chlorophenyl)cyclopentanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}acetamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.44 (s, 1H), 7.34–7.26 (m, 7H), 6.97 (d, 1H, J=7.6 Hz), 6.54 (br s, 1H), 3.28 (dd, 2H, J=5.6, 12.0 Hz), 2.95 (d, 2H, J=12.0 Hz), 2.54–2.48 (m, 3H), 2.33 (t, 2H, J=6.8 Hz), 2.20 (s, 3H), 2.00–1.95 (m, 4H), 1.84–1.60 (m, 10H); ESMS m/e: 482.2 (M+H)+.

reactant | 1-(4-chlorophenyl)cyclopentanecarboxylic acid | ClC1=CC=C(C=C1)C1(CCCC1)C(=O)O | C12H13ClO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}acetamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C)=O | C16H25N3O
product | N-(3-{4-[3-(ACETYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-1-(4-CHLOROPHENYL)CYCLOPENTANECARBOXAMIDE | C(C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(=O)C1(CCCC1)C1=CC=C(C=C1)Cl | C28H36ClN3O2
